US04874792
(b) 2-(7-Bromoheptyl)benzyl alcohol
To 2-(7-bromoheptyl) benzoic acid (8.0 g, 0.027 mole) and distilled tetrahydrofuran (75 ml) was added diborane (40 ml, 0.04 mole) at room temperature under argon. The reaction mixture was stirred at room temperature for approximately 18 hours under argon, cooled to 0° C. and quenched with ethanol. The solvents were evaporated to give a colorless oil which was partitioned between methylene chloride and water. The organic layer was dried over magnesium sulfate and filtered. The resulting oil was flash chromatographed on silica using 10% ethyl acetate in hexane to give the desired product.

reactant | 2-(7-bromoheptyl) benzoic acid | 0.027 mole, 8.0 g | BrCCCCCCCC1=C(C(=O)O)C=CC=C1 | C14H19BrO2
reactant | diborane | 0.04 mole, 40 ml | B#B | B2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2-(7-Bromoheptyl)benzyl alcohol | BrCCCCCCCC1=C(CO)C=CC=C1 | C14H21BrO
